US05840979
(R)-N-Trifluoroacetyl-2-heptylamine
To a stirred ice-cold solution of (R)-2-heptylamine (3.5 g, 30 mmol) in chloroform (35 ml) and pyridine (6 ml) was added dropwise trifluoroacetic anhydride (6 ml, 38 mmol). After completion of the addition the solution was stirred overnight at room temperature. The solution was washed successively with 10% citric acid (3×15 ml) and saturated aqueous sodium bicarbonate solution (2×20 ml). The organic solution was dried over Na2SO4, filtered and the solvent was removed under reduced pressure at 40° C. The residue was a yellow liquid obtained in quantitative yield.

reactant | (R)-2-heptylamine | 30 mmol, 3.5 g | C[C@H](CCCCC)N | C7H17N
reactant | trifluoroacetic anhydride | 38 mmol, 6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | (R)-N-Trifluoroacetyl-2-heptylamine | quantitative yield | FC(C(=O)N[C@H](C)CCCCC)(F)F | C9H16F3NO
